### PR TITLE
[Merged by Bors] - doc(grw): explicitly mention backwards rewriting

### PR DESCRIPTION
**Pull request by JovanGerb**
Multiple people have expressed confusion about the backwards rewriting in the `grw` tactic, so I've added it to the doc-string. Let me know if it can be explained more clearly.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/GRewrite/Elab.lean [hunk 1]
```diff
@@ -91,6 +92,14 @@ example (h₁ : a ∣ b) (h₂ : b ∣ a ^ 2 * c) : a ∣ b ^ 2 * c := by
   grw [h₁] at *
   exact h₂
 ```
+
+To replace the RHS with the LHS of the given relation, use the `←` notation (just like in `rw`):
+
+```
+example (h₁ : a < b) (h₂ : b ≤ c) : a + d ≤ c + d := by
+  grw [← h₂, ← h₁]
```
Comment (grunweg) [inline Mathlib/Tactic/GRewrite/Elab.lean:100]: And here, `grw` is clever enough to figure out that it should use h1.le? Neat!

**Review by grunweg — COMMENTED** [review]
Thanks! This seems like a useful addition, and is a good fact know more about.
I will wait 24 hours for other opinions, and (unless there are) merge then.
maintainer merge

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Tactic/GRewrite/Elab.lean (hunk 1 above)
Comment (JovanGerb) [reply Mathlib/Tactic/GRewrite/Elab.lean:100]: I've added a comment about strict inequlities.
